US05043341
A. Preparation of (S,S)-(+)-N-(2-hydroxycyclopentyl)acetamide
Following the procedure of Example 2A, 74.7 g of (S,S)-(+)-2-aminocyclopentanol were reacted with acetyl chloride to provide 107.9 g of the title intermediate as an oil which crystallized upon cooling. NMR.

reactant | (S,S)-(+)-2-aminocyclopentanol | 74.7 g | N[C@@H]1[C@H](CCC1)O | C5H11NO
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | (S,S)-(+)-N-(2-hydroxycyclopentyl)acetamide | 107.9 g | O[C@@H]1[C@H](CCC1)NC(C)=O | C7H13NO2
